US08258130B2
A solution of 5-methoxy-1H-indole (16.9 mmol) and potassium tert-butoxide (33.8 mmol) in DMF (76 mL) is stirred at rt under N2 for 2 h. 0.15 M NH2Cl in ether (169.2 mL) is added drop-wise for 15 minutes at rt. The reaction mixture is stirred at rt for 2 h, quenched with 5% Na2S2O3 aqueous solution (100 mL), and stirred at rt overnight. The mixture is extracted with ether. The organic layer is separated, washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-20% EtOAc in heptane to afford 5-methoxy-indole-1-ylamine (388 mg, 14%) as a solid. 1H NMR (300 MHz, CDCl3): δ 4.78 (br, 2N—H), 6.35 (d, H), 6.94 (d, H), 7.08 (d, H), 7.17 (d, H), 7.30-7.39 (d, H).

reactant | 5-methoxy-1H-indole | 16.9 mmol | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | potassium tert-butoxide | 33.8 mmol | CC(C)([O-])C.[K+]
reactant | NH2Cl | 0.15 M | NCl | ClH2N
solvent | DMF | 76 mL | CN(C)C=O | C3H7NO
solvent | ether | 169.2 mL | CCOCC | C4H10O
product | 5-methoxy-indole-1-ylamine | 388 mg, 14% | COC=1C=C2C=CN(C2=CC1)N | C9H10N2O
